US07960369B2
(2′,6′-diethylbiphenyl-3-yl)methanol
To a solution of 2′,6′-diethylbiphenyl-3-carbaldehyde (3.48 g, 14.6 mmol) in a mixture of methanol (35 mL) and tetrahydrofuran (35 mL) was added sodium borohydride (0.28 g, 7.3 mmol) under ice-cooling, and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was adjusted to pH 3 with 1N hydrochloric acid, diluted with ethyl acetate, washed successively with water and saturated brine, dried (magnesium sulfate), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-2/1) to give the title compound (2.82 g, yield 80%) as a colorless oil.

reactant | 2′,6′-diethylbiphenyl-3-carbaldehyde | 14.6 mmol, 3.48 g | C(C)C1=C(C(=CC=C1)CC)C1=CC(=CC=C1)C=O | C17H18O
reactant | sodium borohydride | 7.3 mmol, 0.28 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2′,6′-diethylbiphenyl-3-yl)methanol | 2.82 g, yield 80% | C(C)C1=C(C(=CC=C1)CC)C1=CC(=CC=C1)CO | C17H20O
